US04985555
To a suspension of phosphorus pentachloride (366 mg) in methylene chloride (6 ml) was added pyridine (0.142 ml) at -30° C. After the mixture was stirred for 30 minutes at the same temperature, p-nitrobenzyl 7-(2-phenylacetamido)-3-vinylthio-3-cephem-4-carboxylate (300 mg) was added thereto at -30° C. The mixture was stirred for 1 hour under the ice-cooling to the mixture was added methanol (0.38 ml) at -30° C., and the mixture was stirred for 2 hours at -15°~-20° C. Water (0.4 ml) was added thereto under ice-cooling. Diisopropyl ether (5 ml) was added to the mixture to give a precipitate. The precipitate was collected, washed with water and diisopropyl ether successively and dried over phosphorus pentoxide to give p-nitrobenzyl 7-amino-3-vinylthio-3-cephem-4-carboxylate hydrochloride (181 mg).

reactant | phosphorus pentachloride | 366 mg | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | pyridine | 0.142 ml | N1=CC=CC=C1 | C5H5N
reactant | p-nitrobenzyl 7-(2-phenylacetamido)-3-vinylthio-3-cephem-4-carboxylate | 300 mg | C1(=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=S)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C24H21N3O5S2
reactant | Diisopropyl ether | 5 ml | C(C)(C)OC(C)C | C6H14O
solvent | methylene chloride | 6 ml | C(Cl)Cl | CH2Cl2
solvent | Water | 0.4 ml | O | H2O
solvent | methanol | 0.38 ml | CO | CH4O
product | p-nitrobenzyl 7-amino-3-vinylthio-3-cephem-4-carboxylate hydrochloride | 181 mg | Cl.NC1[C@@H]2N(C(=C(CS2)C=C)C(=S)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | InChI=1S/C16H15N3O4S2.ClH/c1-2-10-8-25-15-12(17)14(20)18(15)13(10)16(24)23-7-9-3-5-11(6-4-9)19(21)22;/h2-6,12,15H,1,7-8,17H2;1H/t12?,15-;/m1./s1
